US07598264B2
Step 6: 5-amino-2-(4-fluorobenzyl)-8-methoxy-6-methyl-2,3,4,6-tetrahydro-2,6-naphthyridine-1,7-dione
To a solution of sodium azide (0.091 g, 1.4 mmol) in 2 mL water cooled to 0° C. was add 6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carbonyl chloride (0.48 g, 1.28 mmol) in acetone (8 mL). The solution was stirred for 30 minutes, then evaporated. The residue was partitioned between CHCl3 and saturated Na bicarbonate, dried with Na2SO4, filtered and evaporated to give the crude product, which was chromatographed on silica eluting with 5% MeOH/CHCl3 saturated with NH3.

reactant | sodium azide | 1.4 mmol, 0.091 g | [N-]=[N+]=[N-].[Na+]
reactant | 6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carbonyl chloride | 1.28 mmol, 0.48 g | FC1=CC=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)Cl)C)=O)OC)=O)C=C1 | C18H16ClFN2O4
solvent | water | 2 mL | O | H2O
solvent | acetone | 8 mL | CC(=O)C | C3H6O
product | 5-amino-2-(4-fluorobenzyl)-8-methoxy-6-methyl-2,3,4,6-tetrahydro-2,6-naphthyridine-1,7-dione | NC1=C2CCN(C(C2=C(C(N1C)=O)OC)=O)CC1=CC=C(C=C1)F | C17H18FN3O3
